US05342846
N,N,N-Trimethyl-N-(2-hydroxyethyl)-ammonium-1-cyclopropyl -6,8-difluoro-7-[3-(4-methyl-1,2,3-triazol-1-yl)pyrrolidin -1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylate
To a suspension of 1-cyclopropyl-6,8-difluoro-7-[3-(4-Methyl-1,2,3-triazol-1-yl)pyrrolidine-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (415.5 mg, 1 mmol) in 2.5 ml of methanol and 0.8 ml water at room temperature was added slowly 0.31 ml Of 45% N,N,N-trimethyl-2-hydroxyethyl-ammonium hydroxide in methanol (1 mmol). The solution was stirred at room temperature for an additional hour. This was filtered and the supernatant was evaporated under reduced pressure at 30° C. The residue was crystallized from acetone-methanol to yield after drying 420 mg of off-white solid, m.p. 188.7°-190.7° C. 1H NMR (D20) δ: 8.44 (s, 1H), 7.84 (bs, 1H), 7.62 (bd, 13.9Hz, 1H), 5.43-5.22 (m, 1H), 4.35-3.62 (m, 7H), 3.52 (t, 2H), 3.21 (s, 9H), 2.73-2.16 (m, 2H) 2.29 (s, 3H), 1.74-0.9 (m, 4H). Anal. calcd. for C25H32F2N6O4 . 1/2 H2O: C, 56.98; H, 6.31; N, 15.94. Found: C, 56.76; H, 6.26; N, 15.43.

reactant | 1-cyclopropyl-6,8-difluoro-7-[3-(4-Methyl-1,2,3-triazol-1-yl)pyrrolidine-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 1 mmol, 415.5 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(CC1)N1N=NC(=C1)C)F)=O)C(=O)O | C20H19F2N5O3
reactant | N,N,N-trimethyl-2-hydroxyethyl-ammonium hydroxide | 0.31 ml | [OH-].C[N+](C)(C)CCO
solvent | methanol | 2.5 ml | CO | CH4O
solvent | water | 0.8 ml | O | H2O
solvent | methanol | 1 mmol | CO | CH4O
product | N,N,N-Trimethyl-N-(2-hydroxyethyl)-ammonium 1-cyclopropyl -6,8-difluoro-7-[3-(4-methyl-1,2,3-triazol-1-yl)pyrrolidin -1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylate | C[N+](CCO)(C)C.C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(CC1)N1N=NC(=C1)C)F)=O)C(=O)[O-] | InChI=1S/C20H19F2N5O3.C5H14NO/c1-10-7-27(24-23-10)12-4-5-25(8-12)18-15(21)6-13-17(16(18)22)26(11-2-3-11)9-14(19(13)28)20(29)30;1-6(2,3)4-5-7/h6-7,9,11-12H,2-5,8H2,1H3,(H,29,30);7H,4-5H2,1-3H3/q;+1/p-1
